US07541374B2
0.21 g of 1-(chloromethyl)-4-[(dichlorofluoromethyl)thio]-1H-pyrazole and 0.14 g of (3,3,3-trifluoropropyl) malononitrile were dissolved in 2 ml of N,N-dimethylformamide. 0.12 g of potassium carbonate was added to the solution under ice cooling, followed by stirring at room temperature for overnight. Water was added to the reaction mixture, and then extracted with MTBE. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered. The filtrate was concentrated under reduced pressure to obtain 0.06 g of [(4-{(dichlorofluoromethyl)thio}-1H-pyrazole-1-yl)methyl](3,3,3-trifluoropropyl)malononitrile (referred as the compound of the present invention (43), hereinafter) shown by below formula.

reactant | 1-(chloromethyl)-4-[(dichlorofluoromethyl)thio]-1H-pyrazole | 0.21 g | ClCN1N=CC(=C1)SC(F)(Cl)Cl | C5H4Cl3FN2S
reactant | (3,3,3-trifluoropropyl) malononitrile | 0.14 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | [(4-{(dichlorofluoromethyl)thio}-1H-pyrazole-1-yl)methyl](3,3,3-trifluoropropyl)malononitrile | 0.06 g | ClC(SC=1C=NN(C1)CC(C#N)(C#N)CCC(F)(F)F)(F)Cl | C11H8Cl2F4N4S
